US05827875
E. 2-Phenoxybenzoic acid chloride
To a solution of 2-phenoxybenzoic acid (Aldrich) (500 mg, 2.33 mmol) and DMF (1 drop) in dichloromethane (10 mL) at RT was added dropwise a solution of oxalyl chloride in dichloromethane (2.0M, 1.28 mL, 2.56 mmol). Bubbling of escaping gasses continued for 10 min after addition. The reaction was stirred at RT for 60 min, then concentrated in vacuo to give title compound as an oil.

reactant | 2-phenoxybenzoic acid | 2.33 mmol, 500 mg | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.56 mmol, 2.0M, 1.28 mL | ClCCl | CH2Cl2
product | 2-Phenoxybenzoic acid chloride | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
